US04787930
1.07 ml (0.011 mol) of acetic anhydride and 0.45 ml (0.0106 mol) of 98 percent strength nitric acid are added in succession to a solution of 3.8 g (0.01 mol) of 5-methanesulphonamido-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole in 20 ml of glacial acetic acid at about 15° C. The mixture is stirred at room temperature for 16 hours and the reaction solution is poured onto 100 ml of water. The precipitate is filtered off with suction, washed neutral and dried in vacuo. 3.4 g (80% of theory) of 5-methanesulphonamido-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole of melting point 163° C.-168° C. are obtained.

reactant | acetic anhydride | 0.011 mol, 1.07 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 5-methanesulphonamido-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 0.01 mol, 3.8 g | CS(=O)(=O)NC1=CC=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C11H6F7N3O2S
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-methanesulphonamido-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 3.4 g, 80% | CS(=O)(=O)NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)[N+](=O)[O-] | C11H5F7N4O4S
